US07790895B2
3-(3-Hydroxy-1,3-dihydro-furo[3,4-c]pyridin-1-yl)-benzonitrile (110 mg) was dissolved in ethanol (5 mL) and then treated with sodium borohydride (51 mg). The reaction mixture was stirred for 1 hour, diluted with ethyl acetate and washed with brine. The organic layer was dried over sodium sulfate, concentrated, and the residue purified by flash chromatography to yield 3-[hydroxy-(3-hydroxymethyl-pyridin-4-yl)-methyl]-benzonitrile as a colorless foam.

reactant | 3-(3-Hydroxy-1,3-dihydro-furo[3,4-c]pyridin-1-yl)-benzonitrile | 110 mg | OC1OC(C2=C1C=NC=C2)C=2C=C(C#N)C=CC2 | C14H10N2O2
reactant | sodium borohydride | 51 mg | [BH4-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[hydroxy-(3-hydroxymethyl-pyridin-4-yl)-methyl]-benzonitrile | OC(C=1C=C(C#N)C=CC1)C1=C(C=NC=C1)CO | C14H12N2O2
